US08080563B2
4-Amino-8-(cyclopentyloxy)-7-methoxyquinolin-2(1H)-one (340 mg, 1.24 mmol) was added in 3 portions over 5 min to a mixture of sodium hydride (110 mg, 60%, 2.75 mmol) and DMSO (4 mL) at rt under N2. After 5 min, 3,4,5-trichloropyridine (271 mg, 1.49 mmol) was added. After 19 h, more sodium hydride (100 mg, 60%, 2.5 mmol) was added followed by more 3,4,5-trichloropyridine (250 mg, 1.37 mmol). After an additional 4 h, the reaction was poured into 1M KH2PO4 (75 mL) and stirred for 5 min. The solids were filtered, washed with water (25 mL), and then purified by reverse-phase HPLC (3:7→1:0; acetonitrile:water). In some cases, additional purification by silica gel chromatography (1:0→9:1; dichlormethane:methanol) was needed to give 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one: 1H NMR (400 MHz, DMSO-d6): δ 9.39 (s, 1H), 8.86 (s, 1H), 8.76 (s, 2H), 7.87 (d, 1H), 7.06 (d, 1H), 4.97 (m, 1H), 4.78 (s, 1H), 3.90 (s, 3H), 1.83-1.48 (m, 8H); MS (ESI): 419.7.

reactant | 4-Amino-8-(cyclopentyloxy)-7-methoxyquinolin-2(1H)-one | 1.24 mmol, 340 mg | NC1=CC(NC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C15H18N2O3
reactant | sodium hydride | 2.75 mmol, 110 mg | [H-].[Na+]
reactant | 3,4,5-trichloropyridine | 1.49 mmol, 271 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | 3,4,5-trichloropyridine | 1.37 mmol, 250 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
reactant | KH2PO4 | 1M, 75 mL | OP(=O)(O)[O-].[K+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxyquinolin-2(1H)-one | C1(CCCC1)OC=1C(=CC=C2C(=CC(NC12)=O)NC1=C(C=NC=C1Cl)Cl)OC | C20H19Cl2N3O3
